US08026366B2
A mixture of 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (245 mg, 1.0 mmol), cesium carbonate (1.3 g, 4.0 mmol), and DMF (20 mL) was stirred at 75° C. for 10 minutes. 2-(Bromomethyl)-5-(trifluoromethyl)furan (252 mg, 1.1 mmol) was added in portions over a period of 30 minutes. The reaction mixture was stirred for 1 hour and then the heat source was removed. The reaction mixture was diluted with water (250 mL), stirred for 1 hour, and then filtered. The isolated solid was rinsed with water and then dried to provide a brown powder. This material was dissolved in dichloromethane and then purified by HPFC eluting with a gradient of 0-15 CMA in chloroform 700 mL and then with 15% CMA in chloroform over 200 mL. The resulting solid was recrystallized from acetonitrile to provide 125 mg of 2-ethyl-7-{[5-(trifluoromethyl)furan-2-yl]methoxy}thiazolo[4,5-c]quinolin-4-amine as an off-white solid, mp 152-154° C. MS (ESI) m/z 394 (M+H)+; Anal. calcd for C18H14F3N3O2S: C, 54.96; H, 3.59; N, 10.68. Found: C, 54.90; H, 3.46; N, 10.52.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 1.0 mmol, 245 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 4.0 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 2-(Bromomethyl)-5-(trifluoromethyl)furan | 1.1 mmol, 252 mg | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-ethyl-7-{[5-(trifluoromethyl)furan-2-yl]methoxy}thiazolo[4,5-c]quinolin-4-amine | 125 mg | C(C)C=1SC2=C(C(=NC=3C=C(C=CC23)OCC=2OC(=CC2)C(F)(F)F)N)N1 | C18H14F3N3O2S
